US08445510B2
2-Chloro-4-ethoxy-1-fluorobenzene
A mixture of 3-chloro-4-fluorophenol (2.0 g, 13.7 mmol), diethylsulfate (1.58 mL, 17.8 mmol) and K2CO3 (9.4 g, 68.5 mmol) in acetone (20 mL) was heated under refluxed for 3 h. The reaction mixture was filtered and concentrated. The residue was diluted with ethyl acetate (50 mL), washed with water (30 mL) and brine. The organic layer was dried (Na2SO4) and concentrated to give the title compound as a liquid. 1H NMR (CDCl3, 400 MHz): δ=1.39 (t, 3H, J=7.2 Hz), 3.97 (q, 2H, J=7.2 Hz), 6.71-6.74 (m, 1H), 6.89-6.91 (m, 1H), 7.02 (t, 1H, J=8.8 Hz).

reactant | 3-chloro-4-fluorophenol | 13.7 mmol, 2.0 g | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | diethylsulfate | 17.8 mmol, 1.58 mL | C(C)OS(=O)(=O)OCC | C4H10O4S
reactant | K2CO3 | 68.5 mmol, 9.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 2-Chloro-4-ethoxy-1-fluorobenzene | ClC1=C(C=CC(=C1)OCC)F | C8H8ClFO
